US08431569B2
Step 4. {[4-(Benzyloxy)cyclohex-1-en-1-yl]oxy}(tert-butyl)dimethylsilane
To a stirred solution of 4-(benzyloxy)cyclohexanone (10 g, 49 mmol) and Hunig's base (17.1 mL, 98 mmol) in DCM (50 mL) was added TBSOTf (11.8 mL, 51.4 mmol) in DCM (50 mL) dropwise at 0° C. The reaction mixture was allowed to warm to room temperature, and left to stir until the reaction was complete. The mixture was poured into water, and the organic layer was separated, dried, and concentrated. Purification by flash chromatography afforded the title compound. 1H NMR (600 MHz, CDCl3) δ 7.20-7.36 (m, 5H); 4.72 (br s, 1H); 4.55 (s, 2H); 3.60 (m, 1H); 1.72-2.38 (series of m, 6H); 0.90 (s, 9H); 0.10 (s, 6H).

reactant | 4-(benzyloxy)cyclohexanone | 49 mmol, 10 g | C(C1=CC=CC=C1)OC1CCC(CC1)=O | C13H16O2
reactant | Hunig's base | 98 mmol, 17.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBSOTf | 51.4 mmol, 11.8 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | {[4-(Benzyloxy)cyclohex-1-en-1-yl]oxy}(tert-butyl)dimethylsilane | C(C1=CC=CC=C1)OC1CC=C(CC1)O[Si](C)(C)C(C)(C)C | C19H30O2Si
